US07700589B2
76b) 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid
A mixture of 11.6 g (29.5 mmol) tert-butyl 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoate and 100 mL DCM was combined with 20 mL TFA, the reaction mixture was stirred for 3 h at RT and evaporated down under reduced pressure.

reactant | tert-butyl 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoate | 29.5 mmol, 11.6 g | CC=1C=C(C=CC1C)CC(CC(=O)OC(C)(C)C)(C(=O)OCC)C(=O)OCC | C22H32O6
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-dimethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid | CC=1C=C(C=CC1C)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC | C18H24O6
